Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm coping with systemic racism"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ Male ___ student with hx of bipolar disorder 
presents
with symptoms consistent with mania.  

Per Dr. ___ Dr ___ consult note from  ___ and
___:
"Mr. ___ is a ___ ___ at ___
who was brought to the emergency department by his parents at 
the
recommendation of his outpatient psychiatrist Dr. ___.  The
school had become concerned about the patient's behavior, Dr.
___ his parents last ___ to inquire about previous
medications, they decided to drive up to ___ to get him help. 

The patient was started on ziprasidone
20 mg daily, the dose was supposed to be increased yesterday to
40 mg daily but the patient did not remember to do that. On
arrival in the emergency department the patient presented very
tangential, delusional, disorganized, paranoid, with 
hypergraphia
and was difficult to redirect. He was friendly, not aggressive
and engaged with staff. Took olanzapine 10 mg and 2 mg of
lorazepam po. He told me this morning that he knows that two
seniors at ___ are predators and are involved with freshmen who
might only be ___. He had been calling ___ to report that. When we
realized his phone activities we decided to confiscate his phone
for a while. He also called the ___ to let him know that he was
in his room and that he was being committed. He was slightly 
more
redirectable this morning, I was able to have him answer some of
my questions about his history. We discussed the death of his
family, talked about how his grandmother died in his house. We
talked about his dad's unemployment and how his mother has to
work now. He understands that he is going to a hospital. 

Conversation with his parents: His parents (I had had a long
conversation with them yesterday, discussed the concept of
___ and the law that does not allow to transport patients
on a ___ across a state line) feel very frustrated.  They
do not agree that he needs to be on a ___, say that they
feel "tricked" by us and by his outpatient psychiatrist.  They
were allowed to come here voluntarily and now we are not letting
him leave.  They state that they are under a tremendous 
financial
hardship and that our decision to hospitalize their son in 
___
is going to make things much worse.  This was a very long (about
1 hour) conversation.  I tried and hoped to be able to
de-escalate the situation but ultimately was not successful.  I
explained to them that we had obtained authorization from their
insurance company to admit him to ___. I had learned 
that
the ___ was in this insurance
network.  I explained their sons current diagnosis to them,
explained the risks of discharging him, letting him drive down 
to
___ in their car.  They did not believe me that he could 
not
be transported on a ___ and cross the state line between
___ and ___.  They asked me for how long he could
be held on a ___.  I explained the concept of voluntary
signing in versus involuntary admission, explained the 3 day
notice to them.  This did not reassure them.  I had to explain 
to
them that ultimately I was making the decision to keep their son
on a ___ for his safety.  I also was clear that he was
going to be admitted on ___ 4 this afternoon.

Conversation with Dr. ___: He asked to have his cell phone be
left in this note as he will be traveling but is open for a 
phone
conversation.  His phone number is ___.  He tells me 
that
he had a very difficult session with the patient and his parents
yesterday, feels that the parents, the mother in particular,
escalates ___.  They had called their primary care physician 
in
___ to whom he spoke.  Dr. ___ that he shared
with the primary care physician that the patient was too manic 
to
travel and that he was not going to let him travel to ___
with his parents.  They agreed to come to the emergency
department.  The patient's mother however was quite 
dysregulated,
told her son that if he stayed here she would not visit him for 
1
week.  It seemed that the patient actually wanted his parents to
go home.  Dr. ___ shared that BU had offered to pay for a
hotel which the parents initially accepted.  Dr. ___ is 
relieved
that the patient is on a ___ and will be admitted to
___."

On interview at this time, he reports that he is here because he
had a "Get Out" moment - referring to the moment when the main
character "is scratching the chair". "I had that moment over the
weekend". He describes that his ex-girlfriend, who is the
director of a play, was treating him as a "black token" - both
objectifying him in a sexual way. He reports he was "put here by
others" referring to her his parents because they are scared for
him. 

Prior to coming in he was having trouble sleeping, had so many
things he wanted to get done, was up and very excited. 

He is very tangential and difficult to interview - reporting 
that
he is in a ___ play named ___ and is actually in
the hospital looking for someone he has known since his freshman
year who is looking out for him whom he thinks is hospitalized
named ___. 

When asked if there was a trigger that caused this
admission/presentation, he states that was "coping with systemic
racism". Expanding on this - he reports that there are two
classmates in his ___ group whom he believes are sexually
abusing someone else and he has "diplomatic immunity" so he can
talk about and act upon his concerns. This event disturbed him.
He then launches into a discussion about how he used to date a
slightly older woman (He was ___ and she was ___ and this
woman used to date a younger man who was ___. In addition, he
has a "friend in his cast who doesn't understand black culture".
Altogether he summarizes these experiences as coping with
systemic racism. 

He denies any active difficulty with sleep, racing thoughts,
audiovisual hallucinations, thoughts of self harm or harming of
others. 

General ROS: All systems reviewed and were negative.

___ Course:
He was agitated but did not require restraints. He received
Zyprexa 10mg x2 and Ativan 2mg over 1.5 days.   

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
  
Bipolar Disorder 
Hospitalizations: One prior during senior year of high school 
for
what sounds like manic episode
Current treaters and treatment:
-Dr. ___ at ___
Medication and ECT trials:
-Prior trial of risperidone, Depakote-- stopped after
hospitalization in high school due to feeling restless
Self-injury: Patient denies attempts, said he did think about it
seriously summer before college
Harm to others: none reported
Access to weapons: denies access to guns

Past medical history: 
None
 
Social History:
___
Family History:
Family psychiatric history: 
Denies

 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
==========================

PHYSICAL EXAMINATION:
___ 1545 Temp: 98.2 PO BP: 147/89 HR: 77 RR: 16 O2 sat: 99% 


General: Young black male in NAD. Well-nourished, 
well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: No clonus.  Sensation:
Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Negative.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview, ___ backwards, Digit span
forwards 7 and backwards 4. 
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: intact to recent and past history - Current and prior
presidents up to ___
  ___ of knowledge: consistent with education
  Calculations: not assessed
  Abstraction: Correctly explained - "You can't judge a book by
its cover" and "The grass is greener on the other side"  
  Visuospatial: VFF with no extinction. Otherwise not tested.   
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed, wearing glasses, wearing gown 
but
exposed with underwear visible
 Behavior: Calm, but speech becomes pressured when he is telling
his stories. Cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
 Mood and Affect: "I'm stable/good" / euthymic, full range,
appropriate to situation, congruent with mood
 Thought Process: Disorganized, tangential, loosening of
association. 
 Thought Content: delusional content. No significant paranoia.
denies SI/HI/AH/VH.
 Judgment and Insight: poor/poor

=====================
DISCHARGE PHYSICAL EXAM
==========================

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview, ___ backwards, Digit span
forwards 7 and backwards 4. 
  Orientation: oriented to person, time, place, situation
    Memory: intact to recent and past history
  Fund of knowledge: consistent with education
  Calculations: not assessed
  Visuospatial: No clear deficits
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed, wearing glasses, wearing gown 
but
exposed with underwear visible
 Behavior: Calm, but speech becomes pressured when he is telling
his stories. Cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
 Mood and Affect: "I'm still better" / euthymic, full range,
appropriate to situation, congruent with mood
 Thought Process: linear, appropriate responses. 
 Thought Content: No delusional content on interview. No
significant paranoia. denies SI/HI/AH/VH.
 Judgment and Insight: mod/mod

 
Pertinent Results:
============
LAB WORKUP
=============

___ 05:20PM BLOOD WBC-9.1 RBC-6.45* Hgb-15.2 Hct-48.3 
MCV-75* MCH-23.6* MCHC-31.5* RDW-17.6* RDWSD-42.6 Plt ___
___ 05:20PM BLOOD Neuts-50.4 ___ Monos-10.2 
Eos-0.7* Baso-0.7 Im ___ AbsNeut-4.61 AbsLymp-3.44 
AbsMono-0.93* AbsEos-0.06 AbsBaso-0.06
___ 05:20PM BLOOD Plt ___
___ 05:20PM BLOOD Glucose-94 UreaN-9 Creat-1.0 Na-143 K-3.9 
Cl-104 HCO3-24 AnGap-15
___ 05:20PM BLOOD ALT-17 AST-18 AlkPhos-55 TotBili-0.3
___ 05:20PM BLOOD Lipase-17
___ 05:20PM BLOOD Albumin-4.3 Cholest-152
___ 05:20PM BLOOD %HbA1c-5.5 eAG-111
___ 05:20PM BLOOD Triglyc-64 HDL-50 CHOL/HD-3.0 LDLcalc-89
___ 05:20PM BLOOD Valproa-<3*
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
___ Male ___ student with hx of bipolar disorder 
presents
with symptoms consistent with mania. Originally was exhibiting 
signs of grandiosity, delusions regarding mind reading, ideas of
reference, telepathy, rapid speech, tangentiality. No current
concerns for SI or HI.  

  
1. LEGAL & SAFETY:  
On admission, Mr ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission. Mr ___  was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted. Over the 
weekend (I believe ___, pt signed written request for 
discharge ("Three day notice") that was expiring on ___.
 
2. PSYCHIATRIC:
#)Bipolar 1, current manic episode
This presentation seems most consistent with his history of
bipolar disorder and current episode manic with psychosis.  Tox
screens negative and low concern for substance involvement per
history.  

During his inpatient stay, he rapidly improved on zyprexa 10mg 
QHS and was conversing logically with no pressured speech, 
delusional thinking, grandiosity, tangentiality, ideas of 
reference, SI or HI, at the time of discharge. His sleep was of 
adequate duration and restful on Zyprexa. 

He had a conference call with his parents while inpatient that 
went well - the patient endorsed that he felt that his parents 
should take a step back and let him deal with his stressors and 
"let him fail." His parents were particularly worried that he 
was taking too much on at school. In addition, his outpatient 
psychiatrist informed the care team that the patient was getting 
fired from the ___ department extracurricular which he found 
very important. The patient was informed of this before 
discharge from the hospital and tolerated the news. In fact, 
patient called people at the theater. He also contacted his 
employer ___ office) and received positive feedback, pt felt 
supported by that.

He was provided an Rx for 10mg Zyprexa which he should continue 
for now. In the future, after he is stabilized, he and his 
psychiatrist should consider tapering dose and transitioning to 
a more weight neutral medication. 

Regarding his labs and VS in the setting of starting an 
antipsychotic: 
Chol 152, Trig 64, HDL 50, LDL 89
HBA1C 5.5%
BP 145/84
BMI 36.2

He was set up with an intake appointment on the day of discharge 
as well as a psychiatrist appointment. IOP at ___ was 
suggested and this will be coordinated with the help of 
outpatient providers. 

3. SUBSTANCE USE DISORDERS:
Mr ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard. Patient asked questions about alcohol and medications. 
Pt was advised to avoid drinking as alcohol could have 
depressogenic effect on mood. Also, there is risk of drug 
interaction with meds. Similarly, pt was educated about negative 
effect of MJ on cognition.

4. MEDICAL
Mr ___ was medically cleared in the ___. 

# Blood Pressure - Hypertension
He usually had a blood pressure of around 140s systolic while 
admitted though this fluctuated with some values in 120s and 
others as high as 170s. Would recommend follow up with primary 
care provider with outpatient blood pressure measurements as 
inpatient values could be falsely elevated. He may require a low 
dose blood pressure medication like Lisinopril as an outpatient 
if he continues to have high blood pressure. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr ___ often 
attended these groups.  Mr ___ was visible on the milieu and 
appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr ___ gave verbal and written permission for the team to 
contact her/his outpatient psychiatrist, Dr. ___,. Both were 
provided with a summary of Ms./Mr. _'s presentation to the ___ 
___ 4 and an update of her progress since admission on Deac 
4, and they provided collateral information and treatment 
recommendations.
Writer had two telephone conversations with Dr. ___, 
___ from the ___.

Mr ___ gave verbal and written permission for the team to 
contact her/his family member, Father, who was also given an 
update on Mr ___ progress while admitted and discharge 
plan. 

#) GUARDIANSHIP: n/a

6. INFORMED CONSENT: 
Medication: Zyprexa 
---Intended effects/Benefits: treatment of thought disorder, 
mood stabilization, depression, anxiety
---Adverse effects/Risks: Drowsiness, nausea, akathisia, EPS, 
tremor, 
TD, QTc prolongation

Mr ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr ___ was evaluated and felt to be at an 
increased risk of harm to herself/himself/others.  Mr ___  
static risk factors noted at that time include single 
relationship status.  The modifiable risk factors identified 
were as such: disorganized and unpredictable behavior, 
impulsiveness, insomnia, narcissistic vulnerability, polarized 
thinking, acutely stressful events, limited coping skills.  
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Ms./Mr. _ is being discharged with many protective factors, 
including sense of responsibility to family, future oriented 
viewpoint, consistent outpt follow up, relationship with outpt 
providers, medication compliance, no chronic substance abuse, 
help seeking behavior.  Overall, based on the totality of our 
assessment at this time, Mr ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 

Our prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ZIPRASidone Hydrochloride 20 mg PO DAILY 

 
Discharge Medications:
1.  OLANZapine 10 mg PO QHS 
RX *olanzapine 10 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar Disease, Current Manic Episode 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive. Reported feeling 
definitely better. Expressed wish to continue with treatment. 
Shared about positive plans for future.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted with concern for mania but improved with 
initiation of a medication called Zyprexa 10mg at night. You 
were feeling much better at the time of discharge. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___